US07981903B2
2-fluoro-6-[(2-{[2-(methyloxy)-4-(1-propyl-4-piperidinyl)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide
According to General Protocol III, 2-fluoro-6-[(2-{[2-methyloxy)-4-(1-propyl-4-piperidinyl)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide was prepared from 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide (0.30 g, 0.65 mmol), 27% aqueous ammonium hydroxide, and 2-(methyloxy)-4-(1-propyl-4-piperidinyl)aniline (0.18 g, 0.72 mmol) and isolated as a yellow solid (0.117 g); 1H NMR (400 MHz, DMSO-d6) δ ppm 0.85 (t, J=7.5 Hz, 3H), 1.45 (dq, J=14.9, 7.4 Hz, 2 H), 1.64-1.75 (m, 4 H), 1.88-1.98 (m, 2 H), 2.19-2.27 (m, 2 H), 2.42 (dt, J=7.4, 3.8 Hz, 1 H), 2.95 (d, J=11.0 Hz, 2 H), 3.84 (s, 3 H), 6.23 (dd, J=3.5, 2.0 Hz, 1 H), 6.76 (dd, J=8.4, 1.5 Hz, 1 H), 6.87 (d, J=1.5 Hz, 1 H), 6.90-7.00 (m, 2 H), 7.39-7.48 (m, 2 H), 8.01 (s, 1 H), 8.08 (s, 1 H), 8.17 (d, J=8.1 Hz, 1 H), 8.42 (d, J=8.4 Hz, 1 H), 10.42 (s, 1 H), 11.39 (s, 1 H); ESIMS (M+H)+=518.

reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | 0.65 mmol, 0.30 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F | C20H15ClFN5O3S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | 2-(methyloxy)-4-(1-propyl-4-piperidinyl)aniline | 0.72 mmol, 0.18 g | COC1=C(N)C=CC(=C1)C1CCN(CC1)CCC | C15H24N2O
product | 2-fluoro-6-[(2-{[2-(methyloxy)-4-(1-propyl-4-piperidinyl)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | 0.117 g | FC1=C(C(=O)N)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C(C=C1)C1CCN(CC1)CCC)OC)=NC=C2 | C28H32FN7O2
